US07495007B2
In a manner similar to the method described in example 1b, propionyl chloride (1.2 g, 13.mmol) (Aldrich) was used as the starting material in place of acetyl chloride to react with 1,1,3,3,3-hexamethyldisilazane (1.61 g, 10 mmol), n-butyllithium (2.5 M, 4 mL, 10 mmol), 3-chloro-benzaldehyde (1.4 g, 10 mmol) (Aldrich), trimethylsilyl chloride (1.1 g, 10 mmol) and triethylamine (1.36 g, 13 mmol) to give 1-(3-chlorophenyl)-4-methyl-3-trimethylsilyoxy-2-aza-1,3-butadiene as a yellow gum and used for the next step without further purification.

reactant | propionyl chloride | 1.2 g | C(CC)(=O)Cl | C3H5ClO
reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
reactant | 1,1,3,3,3-hexamethyldisilazane | 10 mmol, 1.61 g | C[Si](C)(C)N[Si](C)(C)C | C6H19NSi2
reactant | n-butyllithium | 10 mmol, 2.5 M, 4 mL | C(CCC)[Li]
reactant | 3-chloro-benzaldehyde | 10 mmol, 1.4 g | ClC=1C=C(C=O)C=CC1 | C7H5ClO
reactant | trimethylsilyl chloride | 10 mmol, 1.1 g | C[Si](C)(C)Cl | C3H9ClSi
reactant | triethylamine | 13 mmol, 1.36 g | C(C)N(CC)CC | C6H15N
product | 1-(3-chlorophenyl)-4-methyl-3-trimethylsilyoxy-2-aza-1,3-butadiene | ClC=1C=C(C=CC1)C=NC(=CC)O[Si](C)(C)C | C13H18ClNOSi
